US07384967B2
(4-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-phenyl)-acetic acid (140 mg, 30%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and (4-mercapto-phenyl)-acetic acid (336 mg, 2 mmol) following the general procedure Y.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | (4-mercapto-phenyl)-acetic acid | 2 mmol, 336 mg | SC1=CC=C(C=C1)CC(=O)O | C8H8O2S
product | (4-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-phenyl)-acetic acid | 140 mg, 30% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC(=CN1)SC1=CC=C(C=C1)CC(=O)O)=O | C25H25N3O4S2
